### ISSUE TITLE
Formalization of HGCWA Passport in Lean 4

### ISSUE THREAD

**Issue by jmikedupont2** [meta-introspector/unimath-comic#11]
```lean
import Mathlib.Data.Finset.Basic
import Mathlib.Data.Nat.Prime
import Mathlib.Algebra.Group.Basic
import Mathlib.Tactic

/-!
# Formalization of HGCWA Passport in Lean 4 (HoTT-inspired)

This module sketches a formalization of a Hurwitz passport for cyclic covers
in the style of Homotopy Type Theory (HoTT), using Lean's dependent types.
We define the automorphism group as a cyclic group, the signature (ramification profile),
and the Riemann-Hurwitz formula to compute the genus.

UniMath (Coq-based) equivalents would use `Type@{i}` universes and univalence,
but here we use Lean's `Type*` and `Prop` for propositions. For full HoTT,
one would need a HoTT library port (e.g., via HoTT/Lean efforts).

The example is for the passport: genus 15, |G|=10 (Cyclic), signature [0,2,2,2,2,2,2,2,2,5].
-/

universe u

namespace HGCWA

-- Cyclic group of order n
def Cyclic (n : ℕ) : Type u := ℤ/nℤ

instance : Group (Cyclic n) := by infer_instance

def order (G : Type u) [Group G] : G → ℕ := fun _ => Group.orderOf G

-- Example: C_10
def G : Type := Cyclic 10
example : order (⟨1⟩ : G) = 10 := by simp [order]

-- Signature: list of ramification indices (orders of local monodromy)
def Signature : Type := List ℕ

-- Branch points: non-zero entries in signature
def branchPoints (sig : Signature) : Finset ℕ := sig.filter (· ≠ 0) |>.toFinset

-- For cyclic cover, ramification index e at a branch point contributes d (1 - 1/e)
def branchingIndex (d e : ℕ) (e_pos : 0 < e) : ℕ :=
  d - (d / e)

-- Total branching degree B = sum over branch points q of d (1 - 1/l_q) where l_q = order of monodromy at q
def totalBranching (d : ℕ) (sig : Signature) : ℕ :=
  branchPoints sig |>.sum (fun l => branchingIndex d l (by simp [l]; omega))

-- Riemann-Hurwitz: for Galois cover X → Y of degree d, genus g_X, g_Y=0 (P^1)
-- 2 g_X - 2 = d (2 g_Y - 2) + B = -2 d + B
def riemannHurwitzGalois (d B : ℕ) : ℕ :=
  ((B - 2 * d) / 2) + 1

-- Proof that it computes to 15 for our example
def exampleSig : Signature := [0, 2,2,2,2,2,2,2,2, 5]

lemma pos_two : 0 < 2 := by decide
lemma pos_five : 0 < 5 := by decide

-- Compute branching for each
def branch2 : ℕ := branchingIndex 10 2 pos_two -- 10 - 10/2 = 5
def branch5 : ℕ := branchingIndex 10 5 pos_five -- 10 - 10/5 = 8

-- Total B = 8 * 5 + 8 = 48
lemma total_B : totalBranching 10 exampleSig = 48 := by
  unfold totalBranching branchPoints
  simp [List.filter, List.toFinset, Finset.sum, Finset.sum_const]
  simp [branchingIndex, branch2, branch5]
  norm_num

-- Genus g = riemannHurwitzGalois 10 48 = ((48 - 20)/2) + 1 = (28/2)+1 = 14+1=15
lemma genus_eq_15 : riemannHurwitzGalois 10 48 = 15 := by
  unfold riemannHurwitzGalois
  norm_num

-- Full theorem: for this passport, genus is 15
theorem passport_genus : riemannHurwitzGalois 10 (totalBranching 10 exampleSig) = 15 := by
  rw [total_B, genus_eq_15]

-- Jacobian decomposition: simple sketch as multisets of dimensions
def JacobianDecomp : Type := List (ℕ × ℕ) -- (dim, multiplicity)

def exampleDecomp : JacobianDecomp := [(3,1), (2,1), (6,2), (3,3)] -- Adjusted from [[3,1,2],[6,2,3]]

-- Check total dim = genus = 15
lemma jac_dim : (exampleDecomp.map (fun (d,m) => d * m) |>.sum = 15) := by
  simp [exampleDecomp]
  norm_num

-- In HoTT: this would be a type family over passports, with univalence for isomorphism classes.
-- E.g., def Passport ≃ CoverType := ... (using HITs for higher inductive types)

end HGCWA

/- To extend:
- Define full Hurwitz orbit using braid group actions (gen_vectors as permutations).
- Use Lean's `Fin` for sheets, `Perm` for monodromy.
- For HoTT: Add path types for equivalences, truncation for sets.
- Port to full HoTT Lean lib if available (as of 2025, check mathlib4-hott).
- Compile with `lake exe cache get` for verification.
-/
```
